US04692457
(a) Isopropyl 3-hydroxyphenylcarbamate
A mixture of 3-aminophenol (109 g), magnesium oxide (25 g), water (350 ml) and ethyl acetate (100 ml) was stirred vigorously at room temperature while isopropyl chloroformate (123 g) was added slowly. An ice bath was employed to ensure that the temperature did not exceed 30° C. After stirring for one hour at room temperature, the mixture was filtered to remove insoluble particles. These were washed thoroughly with ether, then the filtrates were combined, then separated, and the organic layers were dried over magnesium sulphate. Evaporation under reduced pressure gave a viscous, pale yellow oil which was crystallised from toluene to give 162.7 g of desired product, mp 75°-77° C.

reactant | 3-aminophenol | 109 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | magnesium oxide | 25 g | [O-2].[Mg+2]
reactant | water | 350 ml | O | H2O
reactant | isopropyl chloroformate | 123 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Isopropyl 3-hydroxyphenylcarbamate | 162.7 g | OC=1C=C(C=CC1)NC(OC(C)C)=O | C10H13NO3
